US06265473B1
Preparation of N-(1-cyclohexyloxy-2,2,6,6-tetramethyl-4-piperidyl)butylamine
The product is prepared analogously to the method described in Example II-1, by reaction of 126.7 g (0.5 moles) of 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-oxopiperidine and 38.4 g (0.52 moles) of n-butylamine.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-oxopiperidine | 0.5 moles, 126.7 g | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | n-butylamine | 0.52 moles, 38.4 g | C(CCC)N | C4H11N
product | N-(1-cyclohexyloxy-2,2,6,6-tetramethyl-4-piperidyl)butylamine | C1(CCCCC1)ON1C(CC(CC1(C)C)CCCCN)(C)C | C19H38N2O
